US07696352B2
5-Chloro-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-pyrazol-3-yl)methyl)thiophene-2-carboxamide (112)
A mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-3-yl)methyl)thiophene-2-carboxamide (60 mg, 0.14 mmol), 2-hydroxypyridine (30 mg, 0.32 mmol), 8-hydroxyquinoline (10 mg, 0.070 mmol) and K2CO3 (50 mg, 0.36 mmol) in DMSO (1 mL) was degassed with Argon before being charged with CuI (15 mg, 0.080 mmol). The mixture in a sealed tube was heated at 130° C. overnight. It was then purified by HPLC to give the titled compound (15 mg). MS 411.0 and 413.0 (M+H, Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-3-yl)methyl)thiophene-2-carboxamide | 0.14 mmol, 60 mg | ClC1=CC=C(S1)C(=O)NCC1=NN(C=C1)C1=CC=C(C=C1)I | C15H11ClIN3OS
reactant | 2-hydroxypyridine | 0.32 mmol, 30 mg | OC1=NC=CC=C1 | C5H5NO
reactant | 8-hydroxyquinoline | 0.070 mmol, 10 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 0.36 mmol, 50 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.080 mmol, 15 mg | [Cu]I
product | 5-Chloro-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-pyrazol-3-yl)methyl)thiophene-2-carboxamide | 15 mg | ClC1=CC=C(S1)C(=O)NCC1=NN(C=C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C20H15ClN4O2S
